US08614206B2
A solution of 5-chloro-1-methyl-4-nitro-1H-pyrazole (1.62 g, 10.0 mmol), 1,4-diazepan-6-ol (4.18 g, 15.0 mmol) and DIPEA (6.6 mL) in EtOH (6 mL) was heated at 130° C. in a microwave for 3 hr. The solvent was removed under reduced pressure and the residue dissolved in DCM (60 mL) and DMF (10 mL). Di-tert-butyl dicarbonate (8.73 g, 40 mmol) and DIPEA (3.48 mL) were added and the mixture stirred at room temperature for 16 hr. The solvent was removed under reduced pressure and the residue purified by silica gel column chromatography (0-100% EtOAc/isohexane) to give tert-butyl 6-hydroxy-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate (2.13 g) as a yellow oil. To a solution of this oil (2.13 g, 6.2 mmol) in DCM (20 mL), Dess-Martin periodinane (3.18 g, 7.49 mmol) was added portionwise. After stirring at room temperature for 18 hr, the mixture was diluted with DCM (20 mL) and quenched with saturated aqueous NaHCO3 (40 mL) followed by 20% aqueous sodium thiosulphate (40 mL). The resulting mixture was stirred for 20 min. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-6-oxo-1,4-diazepane-1-carboxylate (1.6 g) as a viscous yellow oil. To a solution of this oil (0.49 g, 1.43 mmol) in DCM (10 mL) was added deoxo-Fluor® (50% in THF, 1.3 mL, 3.6 mmol) and the mixture was stirred at room temperature for 18 hr. The mixture was diluted with DCM (30 mL), cooled in an ice/water bath and quenched by dropwise addition of saturated aqueous NaHCO3 (50 mL). The resulting mixture was stirred for 10 min. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. The crude product was purified via silica gel column chromatography (0-60% EtOAc/isohexane) to give tert-butyl 6,6-difluoro-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate (467 mg, 42% over four steps) as a clear oil. 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 4.05-3.27 (m, 11H), 1.50 (s, 9H).

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 10.0 mmol, 1.62 g | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 1,4-diazepan-6-ol | 15.0 mmol, 4.18 g | N1CCNCC(C1)O | C5H12N2O
reactant | DIPEA | 6.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Di-tert-butyl dicarbonate | 40 mmol, 8.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 3.48 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 6 mL | CCO | C2H6O
product | tert-butyl 6-hydroxy-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate | 2.13 g | OC1CN(CCN(C1)C(=O)OC(C)(C)C)C1=C(C=NN1C)[N+](=O)[O-] | C14H23N5O5
